US07338959B2
N5-{2-[4-(2-Methanesulfonyl-ethyl)-phenylamino]-pyrimidin-4-yl}-N2-(4-methoxy-benzyl)-1,N5-dimethyl-1H-benzoimidazole-2,5-diamine hydrochloride
The title compound was prepared following the procedure of example two with N5-(2-chloro-pyrimidin-4-yl)-N2-(4-methoxy-benzyl)-1,N5-dimethyl-1H-benzoimidazole-2,5-diamine (82 mg, 0.20 mmol) and 4-(2-Methanesulfonyl-ethyl)-phenylamine (40 mg, 0.20 mmol) as a white solid (57 mg, 47%). 1H NMR (300 MHz, d6-DMSO) δ 9.28 (s, 1H), 7.78 (d, J=6.0 Hz, 1H), 7.67 (d, J=8.4 Hz, 2H), 7.34-7.38 (m, 3H), 7.13-7.18 (m, 3H), 6.94 (d, J=8.4 Hz, 1H), 6.89 (d, J=8.7 Hz, 2H), 5.66 (d, J=6.0 Hz, 1H), 4.57 (d, J=5.4 Hz, 2H), 3.72 (s, 3H), 3.62 (s, 3H), 3.43 (s, 3H), 3.35-3.43 (m, 2H), 2.96 (s, 3H), 2.90-2.96 (m, 2H). MS (ESI) m/z=572 [M+H]+.

reactant | N5-(2-chloro-pyrimidin-4-yl)-N2-(4-methoxy-benzyl)-1,N5-dimethyl-1H-benzoimidazole-2,5-diamine | 0.20 mmol, 82 mg | ClC1=NC=CC(=N1)N(C1=CC2=C(N(C(=N2)NCC2=CC=C(C=C2)OC)C)C=C1)C | C21H21ClN6O
reactant | 4-(2-Methanesulfonyl-ethyl)-phenylamine | 0.20 mmol, 40 mg | CS(=O)(=O)CCC1=CC=C(C=C1)N | C9H13NO2S
product | N5-{2-[4-(2-Methanesulfonyl-ethyl)-phenylamino]-pyrimidin-4-yl}-N2-(4-methoxy-benzyl)-1,N5-dimethyl-1H-benzoimidazole-2,5-diamine hydrochloride | Cl.CS(=O)(=O)CCC1=CC=C(C=C1)NC1=NC=CC(=N1)N(C1=CC2=C(N(C(=N2)NCC2=CC=C(C=C2)OC)C)C=C1)C | InChI=1S/C30H33N7O3S.ClH/c1-36(28-15-17-31-29(35-28)33-23-9-5-21(6-10-23)16-18-41(4,38)39)24-11-14-27-26(19-24)34-30(37(27)2)32-20-22-7-12-25(40-3)13-8-22;/h5-15,17,19H,16,18,20H2,1-4H3,(H,32,34)(H,31,33,35);1H
